US04220644
Reaction of methyl 3-carboxypropyldithiocarbamate with sodium azide and sodium hydroxide as described in Example 7 gave 1-(3-carboxypropyl)tetrazole-5-thiol, m.p. 99°-101°.

reactant | methyl 3-carboxypropyldithiocarbamate | C(=O)(O)CCCNC(SC)=S | C6H11NO2S2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(3-carboxypropyl)tetrazole-5-thiol | C(=O)(O)CCCN1N=NN=C1S | C5H8N4O2S
